US08431695B2
Step 3: Preparation of 7-(4-Amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a solution of 7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butylester (4 g, 11 mmol) and 7-bromo-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (1.3 g, 6.1 mmol) in DME (133 mL) and 2 N Na2CO3 solution (26 mL) was added Pd(dppf)Cl2 (452 mg, 0.6 mmol). The reaction mixture was degassed with N2 for 15 min. The mixture was heated to 80° C. for 23 h. The reaction mixture was filtered through a pad of Celite® and the filtrate was concentrated in vacuo. The crude residue was purified by Biotage® to provide 2.20 g (55%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.9 (m, 2 H), 7.85 (d, 1 H), 7.2 (d, 1 H), 7.0 (d, 2 H), 4.5 (s, 2 H), 3.5 (t, 2 H), 2.8 (t, 2 H) 1.4 (s, 9 H); ES-MS m/z 366.05 [M+H]+, HPLC RT (min) 2.64.

reactant | 7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butylester | 11 mmol, 4 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)B1OC(C(O1)(C)C)(C)C | C20H30BNO4
reactant | 7-bromo-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 6.1 mmol, 1.3 g | BrC1=CC=C2C(=NC=NN21)N | C6H5BrN4
solvent | DME | 133 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2 N, 26 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | 0.6 mmol, 452 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4-Amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.20 g, 55% | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)C1=CC=C2C(=NC=NN21)N | C20H23N5O2
